US06303593B1
1-Benzyl-4-hydroxy-4-(3-phenylpropyl)piperidine
To a solution of 3.8 mL (25 mmol) of 1-bromo-3-phenyl propane in 200 mL of ether at −78° C. was slowly added 30 mL (50 mmol) of t-BuLi (1.7 M in pentane). The reaction mixture was warmed to −20° C. for 15 min, then it was recooled to −78° C. To this reaction mixture was slowly added a solution of 2.61 g (13.8 mmol) of 1-benzyl-4-piperidone in 20 mL of ether. After 15 min, the reaction mixture was poured into, 200 mL of sat'd NH4Cl solution. The reaction mixture was extracted with ethyl acetate and the combined organic fractions were washed with sat'd NaCl solution, dried over MgSO4 filtered and the filtrate was concentrated. The residue was purified by chromatography (silica, hexanes: ethyl acetate, 1:1) to give 3.3 g of the title compound.

reactant | 1-bromo-3-phenyl propane | 25 mmol, 3.8 mL | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | t-BuLi | 50 mmol, 1.7 M, 30 mL | [Li]C(C)(C)C
reactant | 1-benzyl-4-piperidone | 13.8 mmol, 2.61 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | NH4Cl | 200 mL | [NH4+].[Cl-]
solvent | ether | 200 mL | CCOCC | C4H10O
solvent | ether | 20 mL | CCOCC | C4H10O
product | 1-Benzyl-4-hydroxy-4-(3-phenylpropyl)piperidine | 3.3 g | C(C1=CC=CC=C1)N1CCC(CC1)(CCCC1=CC=CC=C1)O | C21H27NO
